* source 4POLEBPF
C_C1         0 N14346  1.13n  TC=0,0 
L_L1         N14346 0  50n  
L_L2         N14438 0  50n  
C_C2         0 N14438  1.10n  TC=0,0 
C_C3         N14438 N14346  4.78p  TC=0,0 
L_L3         N15705 N14346  1.62u  
C_C4         N14682 N14438  3.08p  TC=0,0 
C_C5         0 N14682  1.10n  TC=0,0 
L_L4         N14682 0  50n  
C_C6         N14881 N14682  4.78p  TC=0,0 
C_C7         0 N14881  1.13n  TC=0,0 
L_L5         N14881 0  50n  
L_L6         N14881 N15113  1.62u  
R_R1         0 N15113  50 TC=0,0 
R_R2         N15701 N153410  50 TC=0,0 
V_V1         N153410 0 DC 0Vdc AC 1Vac 
L_L7         N15701 N15705  258.3n  
C_C8         0 N15705  34.38p  TC=0,0 
C_C14         0 N17375  1.10n  TC=0,0 
C_C16         0 N17423  1.13n  TC=0,0 
L_L11         N17353 0  50n  
C_C9         N17375 N17353  4.02p  TC=0,0 
C_C13         0 N17353  1.13n  TC=0,0 
V_V2         N174590 0 DC 0Vdc AC 1Vac 
R_R3         N17333 N174590  50 TC=0,0 
L_L10         N17423 N17441  1.87u  
L_L9         N17347 N17353  1.87u  
R_R4         0 N17441  50 TC=0,0 
L_L14         N17423 0  50n  
C_C10         N17423 N17375  4.02p  TC=0,0 
L_L12         N17375 0  50n  
C_C17         0 N17347  72.45p  TC=0,0 
L_L15         N17333 N17347  267.6n  
