* source HF FILTERS
R_R1         0 N14846  50 TC=0,0 
R_R2         N145461 N14552  50 TC=0,0 
V_V1         N145461 0 DC 0Vdc AC 1Vac 
L_L6         N15275 N15282  33n  
C_C6         N15282 N15275  910p  TC=0,0 
C_C7         0 N153591  39p  TC=0,0 
L_L7         N15282 N153591  820n  
L_L8         N15282 N15519  120n  
C_C8         N15519 N15282  220p  TC=0,0 
L_L11         N15519 N159641  470n  
C_C11         0 N159641  62p  TC=0,0 
L_L13         N14552 N15275  1.2n  
C_C13         0 N15275  1p  TC=0,0 
C_C14         N17125 N15519  220p  TC=0,0 
L_L14         N15519 N17125  120n  
L_L15         N17125 N172431  820n  
C_C15         0 N172431  39p  TC=0,0 
C_C16         N14846 N17125  910p  TC=0,0 
L_L16         N17125 N14846  33n  
